US07138414B2
d) (5-(4-(3-(2-chloro-4-fluorobenzoyl)ureido)-3-methoxyphenyl)-4H-[1,2,4]triazol-3-yl)acetic acid
The solution of equivalent amounts of 2-chloro-4-fluorobenzoyl isocyanate in acetonitrile was added dropwise to the solution of 89 mg of [5-(3-methoxy-4-nitrophenyl)-4H-[1,2,4]triazol-3-yl]acetate in 5 ml of acetonitrile and the mixture was stirred at room temperature overnight. The solid formed was then filtered off with suction and dried under reduced pressure.

reactant | 2-chloro-4-fluorobenzoyl isocyanate | ClC1=C(C(=O)N=C=O)C=CC(=C1)F | C8H3ClFNO2
reactant | [5-(3-methoxy-4-nitrophenyl)-4H-[1,2,4]triazol-3-yl]acetate | 89 mg | COC=1C=C(C=CC1[N+](=O)[O-])C=1NC(=NN1)CC(=O)[O-]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | (5-(4-(3-(2-chloro-4-fluorobenzoyl)ureido)-3-methoxyphenyl)-4H-[1,2,4]triazol-3-yl)acetic acid | ClC1=C(C(=O)NC(NC2=C(C=C(C=C2)C=2NC(=NN2)CC(=O)O)OC)=O)C=CC(=C1)F | C19H15ClFN5O5
